US07491720B2
(2) Synthesis of 1-(3-chloro-2-fluorobenzoyl)piperazine hydrochloride
To a mixture of 35.1 g of tert-butyl 4-(3-chloro-2-fluorobenzoyl)piperazine-1-carboxylate and 50 ml of methanol was added a hydrochloric acid-1,4-dioxane solution (4 M, 100 ml) followed by stirring at room temperature for 2.5 hours. The reaction mixture was concentrated in vacuo and the residue was suspended in diethyl ether, filtered and collected to give the title compound.

reactant | tert-butyl 4-(3-chloro-2-fluorobenzoyl)piperazine-1-carboxylate | 35.1 g | ClC=1C(=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=CC1)F | C16H20ClFN2O3
reactant | hydrochloric acid 1,4-dioxane | 4 M, 100 ml | Cl.O1CCOCC1
solvent | methanol | 50 ml | CO | CH4O
product | 1-(3-chloro-2-fluorobenzoyl)piperazine hydrochloride | Cl.ClC=1C(=C(C(=O)N2CCNCC2)C=CC1)F | InChI=1S/C11H12ClFN2O.ClH/c12-9-3-1-2-8(10(9)13)11(16)15-6-4-14-5-7-15;/h1-3,14H,4-7H2;1H
